* source PROIECT-CEF2
V_V1         VIN 0 12Vdc
D_D4         0 N00248 BZX84C2V7/PLP 
R_R1         N00248 VIN  1.5k TC=0,0 
R_R2         N00244 VIN  100 TC=0,0 
R_R3         N00280 VIN  100 TC=0,0 
R_R4         N00920 N22121  100 TC=0,0 
R_R5         N00920 N22111  100 TC=0,0 
R_R6         N07409 VIN  2K TC=0,0 
R_R7         N01270 N22652  330 TC=0,0 
R_R8         0 N01270  68 TC=0,0 
R_R10         N23262 N22662  1.5k TC=0,0 
R_R11         0 N22314  51 TC=0,0 
R_R12         N16734 N04894  3.9k TC=0,0 
R_R14         N01633 N01641  100 TC=0,0 
R_R15         N01641 VOUT  1k TC=0,0 
R_R16         N13888 VOUT  1k TC=0,0 
R_R18         0 N17604  22 TC=0,0 
R_R19         N17612 VOUT  100 TC=0,0 
R_R20         N01338 N25769  1 TC=0,0 
X_R21         N01633 N26390 N04894 POT PARAMS: SET=1 VALUE=5k
D_D5         N13888 0 D1N4148_1 
D_D6         N07409 0 D1N4148_1 
R_R23         0 N16734  1k TC=0,0 
R_R24         N17608 N17612  100 TC=0,0 
R_R25         N17604 N17608  22 TC=0,0 
Q_Q7         VIN N00836 N21567 QMJD31C 
Q_Q6         VIN N21567 N01338 QMJD31C 
Q_Q2         N00836 N21853 N00280 QBC856B 
Q_Q1         N21853 N21853 N00244 QBC856B 
Q_Q4         N00836 N26390 N22111 QBC846B 
Q_Q3         N21853 N00248 N22121 QBC846B 
Q_Q5         N00920 N07409 N22314 QBC846B 
Q_Q10         N00836 N01338 VOUT QBC846B 
Q_Q8         VIN N00248 N22662 QBC817-25 
Q_Q9         N00836 N22652 0 QBC817-25 
R_R26         N23600 N23262  150 TC=0,0 
R_R27         N22652 N23600  100 TC=0,0 
R_R28         N25769 VOUT  0.47 TC=0,0 
R_R29         N25769 VOUT  0.47 TC=0,0 
